US04624681
Add 94.5 g of tetraethylene pentaamine (with an AV of approximately 1050 mg KOH/g) to a 500 ml flask equipped with a stirrer, condensor and nitrogen inlet. Add 220 g of ethylene carbonate to the system. Heat the system at 160° C. for 3 hours under N2. Strip the system to yield an ethylene carbonate-tetraethylene pentaamine adduct having an AV of approximately 180 mg KOH/gm.

reactant | tetraethylene pentaamine | 94.5 g | NCCNCCNCCNCCN | C8H23N5
reactant | KOH | approximately 1050 mg | [OH-].[K+]
reactant | ethylene carbonate | 220 g | C1(OCCO1)=O | C3H4O3
product | ethylene carbonate tetraethylene pentaamine | C1(OCCO1)=O.NCCNCCNCCNCCN | InChI=1S/C8H23N5.C3H4O3/c9-1-3-11-5-7-13-8-6-12-4-2-10;4-3-5-1-2-6-3/h11-13H,1-10H2;1-2H2
